datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([C:16](=[C:17]([H:25])[H:26])[H:24])[C:18](=[C:19]([H:28])[H:29])[H:27])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:20])[H:21])[H:22])([C:15]([C:16](=[C:17]([H:25])[H:26])[H:24])[C:18](=[C:19]([H:28])[H:29])[H:27])[H:23])[H:5],21.7986
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6][H:7]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][S:6][H:7],-2.092
[C:8]([H:9])([H:10])[H:11].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8]([H:9])([H:10])[H:11].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],8.7864
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])([H:14])[H:15])([H:12])[H:13])[H:8]>>[C:0](#[C:1][C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([H:17])[H:18])[H:16])[H:8],99.2445
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])=[C:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:7].[H:15]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([C:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:15])[H:7],15.941
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]=[S:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([C:11]([H:14])([H:15])[H:16])=[S:13],27.6144
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:17])[H:18])[H:16])[C:6]([C:7]([C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([C:4](=[C:5]([H:17])[H:18])[H:16])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]([H:23])([H:24])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:14])([H:12])[H:13],32.3005
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:18])[H:19])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:11],100.29
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:18])([H:19])[H:20])([C:11]([O:12][O:13])([H:21])[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:13][O:12][C:11]([C:9]([C:8]([H:14])([H:15])[H:16])([C:10]([H:18])([H:19])[H:20])[H:17])([H:21])[H:22],56.9024
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[H:11]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])([H:6])[H:11],5.0208
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26],87.613
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:22][O:30],8.811504
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([S:13][H:18])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:14])([H:15])[H:16])([S:13][H:18])[H:17],-5.0208
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][H:7]>>[C:0]([H:2])([H:3])[H:4].[O:1]([H:5])[O:6][H:7],215.201
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25],68.1992
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29])[H:11],37.4468
